US05356898
4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)-methoxy]-2-pyrimidinecarbothioamide (0.22 g, 0.6 mmoles) is dissolved in 5 mL of methanol and added dropwise to 10 mL of 5% hydrazine in methanol at 0° C.. The reaction mixture is stirred at 0° C. for 1 hour, and then diluted with 20 mL of water. The methanol is evaporated under reduced pressure, and the organics are extracted into 50 mL of ethyl acetate. The ethyl acetate extract is washed with brine (4×50 mL) and dried over magnesium sulfate. The solvent is evaporated and the crude amidrazone is dissolved in 10 mL of methanol. Carbon disulfide (0.23 g, 3.1 moles) is added at room temperature. After 10 minutes, the methanol is evaporated and the remaining oil is adsorbed onto a silica gel pad. The pad is eluted with 50% ether/hexane. Evaporation of the eluant gives 0.18 g (73%) of 5-[4,6-bis (1,1-dimethylethyl) -5-[(2-methoxyethoxy) methoxy]-2-pyrimidinyl]-1,3,4-thiadiazole-2 (3H)-thione as an oil. This product is used without further purification in the deprotection reaction.

reactant | 4,6-Bis(1,1-dimethylethyl)-5-[(2-methoxyethoxy)-methoxy]-2-pyrimidinecarbothioamide | 0.6 mmoles, 0.22 g | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C(N)=S | C17H29N3O3S
reactant | hydrazine | 10 mL | NN | H4N2
reactant | Carbon disulfide | 3.1 moles, 0.23 g | C(=S)=S | CS2
solvent | methanol | 5 mL | CO | CH4O
solvent | water | 20 mL | O | H2O
product | 5-[4,6-bis (1,1-dimethylethyl) -5-[(2-methoxyethoxy) methoxy]-2-pyrimidinyl]-1,3,4-thiadiazole-2 (3H)-thione | 0.18 g, 73% | CC(C)(C)C1=NC(=NC(=C1OCOCCOC)C(C)(C)C)C1=NNC(S1)=S | C18H28N4O3S2
